US07351719B2
158) N-{3-chloro-4-[2-(4-hydroxy-piperidin-1-yl)-ethoxy]-phenyl}-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide
Prepared analogously to Example 145 starting from N-[4-(2-bromo-ethoxy)-3-chloro-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide (Z28b) and 4-hydroxy-piperidine.

reactant | N-[4-(2-bromo-ethoxy)-3-chloro-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | BrCCOC1=C(C=C(C=C1)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O)Cl | C17H13BrCl2F3NO3
reactant | 4-hydroxy-piperidine | OC1CCNCC1 | C5H11NO
product | N-{3-chloro-4-[2-(4-hydroxy-piperidin-1-yl)-ethoxy]-phenyl}-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | ClC=1C=C(C=CC1OCCN1CCC(CC1)O)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C22H23Cl2F3N2O4
